US07868177B2
A mixture of benzene-1,2-diamine (0.091 g, 0.85 mmol), 4-(2-(5-isothiocyanatopyridin-2-yloxy)pyridin-3-yl)-N-methylpyrimidin-2-amine (0.237 g, 0.70 mmol), and polymer-supported carbodiimide (Argonaut technologies, 1.6 mmol/g, 1.3 g, 2.1 mmol) was heated for 14 h in anhydrous THF in a sealed vial. The reaction was cooled and was filtered, rinsing with 100 mL DCM. The filtrate was concentrated in vacuo to give an off-white solid. Sonication in dichloromethane gave a fluffy precipitate, which was filtered and collected to give an off-white solid. This material was adsorbed onto 0.8 g SiO2 from MeOH/MC, and purified by silica gel chromatography, 40 g, 0-10% MeOH/MC to give N-(6-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-3-yl)-1H-benzo[d]imidazol-2-amine as a white solid MS m/z=411 [M+H]+. Calc'd for C22H18N8O: 410.4.

reactant | benzene-1,2-diamine | 0.85 mmol, 0.091 g | C=1(C(=CC=CC1)N)N | C6H8N2
reactant | 4-(2-(5-isothiocyanatopyridin-2-yloxy)pyridin-3-yl)-N-methylpyrimidin-2-amine | 0.70 mmol, 0.237 g | N(=C=S)C=1C=CC(=NC1)OC1=NC=CC=C1C1=NC(=NC=C1)NC | C16H12N6OS
reactant | carbodiimide | 2.1 mmol, 1.3 g | N=C=N | CH2N2
reactant | MeOH | CO | CH4O
solvent | THF | C1CCOC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-(6-(3-(2-(methylamino)pyrimidin-4-yl)pyridin-2-yloxy)pyridin-3-yl)-1H-benzo[d]imidazol-2-amine | CNC1=NC=CC(=N1)C=1C(=NC=CC1)OC1=CC=C(C=N1)NC1=NC2=C(N1)C=CC=C2 | C22H18N8O
